US09126931B2
2-Fluoro-3-hydrazinylbenzonitrile
3-Amino-2-fluoro-benzonitrile (100 mg, 0.735 mmol) was dissolved in water (0.94 mL), added with conc. hydrochloric acid (0.74 mL) at 0° C., and then further added with an aqueous solution (0.294 mL) of sodium nitrite (61 mg, 0.882 mmol). The resulting mixture was stirred at 0° C. for 1 hr. To the reaction mixture, conc. hydrochloric acid solution (0.94 mL) of tin chloride (321 mg, 1.69 mmol) was added and stirred at room temperature for 1 hr. Thereafter, the reaction solution was neutralized with aqueous solution of sodium hydroxide, and extracted with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration and the residues were obtained after concentration under reduced pressure to give the target compound as a crude product.

reactant | 3-Amino-2-fluoro-benzonitrile | 0.735 mmol, 100 mg | NC=1C(=C(C#N)C=CC1)F | C7H5FN2
reactant | hydrochloric acid | 0.74 mL | Cl | ClH
reactant | sodium nitrite | 0.882 mmol, 0.294 mL, 61 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.94 mL | Cl | ClH
reactant | tin chloride | 1.69 mmol, 321 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.94 mL | O | H2O
product | 2-Fluoro-3-hydrazinylbenzonitrile | FC1=C(C#N)C=CC=C1NN | C7H6FN3
